US09085555B2
B. (5-Bromo-pyrrolo[2,3-d]pyrimidin-7-yl)-acetic acid tert-butyl ester
To suspension of NaH (60% in mineral oil, 34 mg, 0.85 mmol) in DMF (1.5 mL) at 0° C. under nitrogen atmosphere was added a solution of 5-bromo-7H-pyrrolo[2,3-d]pyrimidine (140 mg, 0.71 mmol) in DMF (1.5 mL). The reaction mixture was stirred at 0° C. for 30 min and tert-butyl bromoacetate (104 μL, 0.71 mmol) was slowly added. The mixture was further stirred at RT for 30 min, then poured into water and extracted with EtOAc (×3). The combined organic extracts were washed with water, dried (Na2SO4), filtered and concentrated. MS (UPLC/MS): 312.3/314.2 [M+H]+.

reactant | NaH | 0.85 mmol, 34 mg | [H-].[Na+]
reactant | 5-bromo-7H-pyrrolo[2,3-d]pyrimidine | 0.71 mmol, 140 mg | BrC1=CNC=2N=CN=CC21 | C6H4BrN3
reactant | tert-butyl bromoacetate | 0.71 mmol, 104 μL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | O | H2O
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | (5-Bromo-pyrrolo[2,3-d]pyrimidin-7-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=C1N=CN=C2)Br)=O | C12H14BrN3O2
